US08119676B2
tert-Butyl (6-cyano-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetate (XIc)
2.40 (5.34 mmol) of tert-butyl 3-(tert-butoxycarbonylphenylmethyl)-5-cyano-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIIc) were dissolved in 200 ml of a 2-percent strength trifluoroacetic acid solution in dichloromethane and stirred at room temperature overnight. The solvent and excess trifluoroacetic acid were removed in vacuo, and the residue was taken up in toluene, concentrated in vacuo and dried.

reactant | tert-butyl 3-(tert-butoxycarbonylphenylmethyl)-5-cyano-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | C(C)(C)(C)OC(=O)C(N1C(N(C2=C1C=C(C=C2)C#N)C(=O)OC(C)(C)C)=O)C2=CC=CC=C2 | C25H27N3O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl (6-cyano-2-oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetate | C(#N)C=1C=CC2=C(N(C(N2)=O)C(C(=O)OC(C)(C)C)C2=CC=CC=C2)C1 | C20H19N3O3
